US04242510
1 N Aqueous solution of sodium hydroxide (1.22 ml.) was added to a solution of ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetate (0.90 g.) in methanol (9 ml.) and stirred at room temperature for 22 hours. After removing methanol from the solution, the residue was dissolved in water (20 ml.). The solution was adjusted to pH 7.0 with conc.hydrochloric acid, washed with ethyl acetate (20 ml.), adjusted to pH 1.5 with conc.hydrochloric acid and extracted with ethyl acetate (50 ml.). The extract was washed with water (50 ml.), dried over magnesium sulfate and concentrated in vacuo. The residue was recrystallized from a mixture of diisopropyl ether, diethyl ether and n-hexane (1:1:1) to give 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetic acid (syn isomer, 0.50 g.), colorless crystals, mp 119° to 121° C.

reactant | sodium hydroxide | 1.22 ml | [OH-].[Na+]
reactant | ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetate | 0.90 g | O1CCSC=C1C(C(=O)OCC)=NOCC=C | C11H15NO4S
solvent | methanol | 9 ml | CO | CH4O
product | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetic acid | 0.50 g | O1CCSC=C1C(C(=O)O)=NOCC=C | C9H11NO4S
